US08865712B2
j) N—[(RS)-1-(2-Bromo-5-fluoro-pyridin-4-yl)-2-((R)-1-cyano-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-2-nitro-benzenesulfonamide
To a dry solution of (R)-2-[(RS)-2-(2-bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonyl-amino)-propoxy]-3,3,3-trifluoro-2-methyl-propionamide (860 mg, 1.35 mmol) in DCM (9 ml) was added at rt NEt3 (0.470 ml, 342 mg, 3.38 mmol). At 0° C., trifluoroacetic anhydride (0.229 ml, 340 mg, 1.62 ml) was added dropwise. The reaction mixture was allowed to warm to rt and to stir for 1.5 h. The reaction mixture was diluted with 1M aq. Na2CO3 soln. and DCM.

reactant | (R)-2-[(RS)-2-(2-bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonyl-amino)-propoxy]-3,3,3-trifluoro-2-methyl-propionamide | 1.35 mmol, 860 mg | BrC1=NC=C(C(=C1)C(CO[C@](C(=O)N)(C(F)(F)F)C)(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])F | C18H17BrF4N4O6S
reactant | NEt3 | 3.38 mmol, 0.470 ml, 342 mg | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.229 ml, 340 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 9 ml | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | 1M | C(=O)([O-])[O-].[Na+].[Na+]
product | N—[(RS)-1-(2-Bromo-5-fluoro-pyridin-4-yl)-2-((R)-1-cyano-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-2-nitro-benzenesulfonamide | BrC1=NC=C(C(=C1)C(CO[C@](C(F)(F)F)(C)C#N)(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])F | C18H15BrF4N4O5S
